US05169923
Isobenzofuran (C)--Typical procedure
To a dry 250 mL round bottom flask equipped with a mechanical stirrer containing 20 g (0.062 mol) of phenolphthalin at 0° C. was added, with stirring, 25 mL of conc. sulfuric acid (cooled to 0° C.) This mixture was stirred slowly for 2-3 min. and poured into a 1L beaker containing 600 mL of ice-water. To retrieve the remaining solids there was added cold water (~20-30 mL×4) while a spatula was used to scrape out the remainder. The solids were combined. The green solid was then filtered, washed with 1 L of cold water and dried for 15-20 min. before being used in the Diels-Alder reaction.

reactant | phenolphthalin | 0.062 mol, 20 g | C1=CC=C(C(=C1)C(C2=CC=C(C=C2)O)C3=CC=C(C=C3)O)C(=O)O | C20H16O4
reactant | sulfuric acid | 25 mL | S(O)(O)(=O)=O | H2O4S
solvent | water | ~20-30 mL | O | H2O
product | Isobenzofuran | C=1OC=C2C=CC=CC12 | C8H6O
